US09403835B2
Step 2: (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(2-dimethylamino-1-methyl-ethoxy)-phenyl]-methanone hydrochloride
A mixture of 2-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-phenoxy]-propionaldehyde (170 mg; 0.43 mmol; 1 eq.), a 1M solution of dimethyl-amine in THF (2.1 mL; 2.1 mmol; 5 eq.) and sodium triacetoxyborohydride (117 mg; 0.55 mmol; 1.3 eq.) in DCE (10 mL) was stirred at 70° C. for 16 hours. The solution was diluted with DCM, washed with sat. aq. NaHCO3 then brine, dried over magnesium sulfate and concentrated in vacuo. Purification by column chromatography (DCM to 20% MeOH in DCM) followed by hydrochloride formation with a 4M solution of HCl in 1,4-dioxane and crystallization from hot MTBE afforded the title compound (40 mg, 20%) as a pale yellow solid. 1H NMR (DMSO-d6) δ 9.83 (br s, 1H), 7.54-7.45 (m, 1H), 7.41 (ddd, J=7.6, 3.9, 1.7 Hz, 1H), 7.26 (d, J=8.5 Hz, 1H), 7.13 (t, J=7.4 Hz, 1H), 5.04-4.91 (m, 1H), 4.90-4.80 (d, J=7.9 Hz, 2H), 4.71-4.41 (m, 2H), 2.85 (s, 1.5H), 2.82 (s, 1.5H), 2.75 (br s, 6H), 2.63 (s, 1.5H), 2.56 (s, 1.5H), 1.30-1.22 (m, 3H). HPLC (max plot) 98.7%, Rt 2.79 min. UPLC/MS: (MS+) 428.3 ([M+H]+).

reactant | 2-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-phenoxy]-propionaldehyde | 0.43 mmol, 170 mg, 1 eq. | ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(OC(C=O)C)C=CC=C3)C | C20H19ClN4O3
reactant | dimethyl-amine | CNC | C2H7N
reactant | THF | 2.1 mmol, 2.1 mL, 5 eq. | C1CCOC1 | C4H8O
reactant | sodium triacetoxyborohydride | 0.55 mmol, 117 mg, 1.3 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(2-dimethylamino-1-methyl-ethoxy)-phenyl]-methanone hydrochloride | 40 mg, 20% | Cl.ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=CC=C3)OC(CN(C)C)C)C | InChI=1S/C22H26ClN5O2.ClH/c1-13(10-26(4)5)30-19-9-7-6-8-16(19)22(29)27-11-17-18(12-27)25-28-15(3)20(23)14(2)24-21(17)28;/h6-9,13H,10-12H2,1-5H3;1H
